US07176323B2
3-(5,5-Dimethyl-1,3-dioxan-2-yl)-1-(4-ethoxyphenyl)butan-1-one
2-Bromo-1-(4-ethoxyphenyl)ethan-1-one (4.0 g) and N,N-bis(2-methylpropyl)-1-propenylamine (4.0 g) were added to 16 ml of dimethylformamide under an atmosphere of nitrogen and the mixture was stirred between 50° C. and 55° C. for 2 hours. To the reaction mixture were added successively 1.6 g of paratoluenesulfonic acid and 2.1 g of neopentyl glycol and the mixture was stirred between 50° C. and 60° C. for 3 hours. After addition of 8 ml of water to the reaction mixture and cooling the reaction mixture to the room temperature, crystals precipitated. These crystals were isolated by filtration to give 3.7 g (yield 72%) of the title compound as white crystals. The 1H-NMR spectrum of the product is substantially identical with that of the product of Example 1.

reactant | 2-Bromo-1-(4-ethoxyphenyl)ethan-1-one | 4.0 g | BrCC(=O)C1=CC=C(C=C1)OCC | C10H11BrO2
reactant | N,N-bis(2-methylpropyl)-1-propenylamine | 4.0 g | CC(CN(CC(C)C)C=CC)C | C11H23N
reactant | dimethylformamide | 16 ml | CN(C=O)C | C3H7NO
reactant | neopentyl glycol | 2.1 g | OCC(C)(CO)C | C5H12O2
solvent | water | 8 ml | O | H2O
product | 3-(5,5-Dimethyl-1,3-dioxan-2-yl)-1-(4-ethoxyphenyl)butan-1-one | 3.7 g, yield 72% | CC1(COC(OC1)C(CC(=O)C1=CC=C(C=C1)OCC)C)C | C18H26O4
